US05262540
4,5-Diphenyl-2-oxazoleoctanoic Acid
A mixture of methyl 4,5-diphenyl-2-oxazoleoctanoate (7.00 g, 18.5 mmol), 5N sodium hydroxide solution (7.42 mL), water (100 mL) and methanol (20 mL) was heated on a steam bath for 45 minutes. After stirring at room temperature for 75 minutes, the mixture was diluted with water (150 mL), heated on a steam bath for 10 minutes and then allowed to stir overnight at room temperature. The mixture was heated to reflux for 1 hour, cooled, acidified with 2N hydrochloric acid solution and extracted with CH2Cl2. The combined extracts were dried over sodium sulfate and concentrated in vacuo to give an oil that crystallized. Recrystallization from a mixture of diethyl ether, CH2Cl2 and hexanes furnished 4,5-diphenyl-2-ozazoleoctanoic acid (5.25 g, 77%), m.p. 70°-73° C.

reactant | methyl 4,5-diphenyl-2-oxazoleoctanoate | 18.5 mmol, 7.00 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCCCCCCC(=O)OC | C24H27NO3
reactant | sodium hydroxide | 5N, 7.42 mL | [OH-].[Na+]
reactant | methanol | 20 mL | CO | CH4O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 150 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 4,5-Diphenyl-2-oxazoleoctanoic Acid | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CCCCCCCC(=O)O | C23H25NO3
